US06291508B1
1,2,3-Trimethyl-indole-5-carbaldehyde
1,2,3-Trimethylindoline (21.5 g) was formulated in a similar manner to that described in Step 2 of Example 1 to obtain 20.1 g of 1,2,3, -trimethylindoline-5-carbaldehyde. The obtained aldehyde (7.5 g) was dissolved in 200 ml of 1,4-dioxane, followed by the addition of 18 g of DDQ. The obtained mixture was heated under reflux for 2.5 hours, followed by the addition of 100 ml of toluene. Insolubles were filtered out and the organic phase was concentrated in a vacuum. The obtained residue was purified by flash column chromatography to give 900 mg of the title compound.

reactant | trimethylindoline-5-carbaldehyde | CC=1C(=C(C(=C2CCNC12)C)C=O)C | C12H15NO
reactant | DDQ | 18 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 1,2,3-Trimethyl-indole-5-carbaldehyde | 900 mg | CN1C(=C(C2=CC(=CC=C12)C=O)C)C | C12H13NO
